US08703768B2
Step 5: 6-Methoxy-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide
The product was obtained starting from 6-methoxy-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (50 mg, 0.18 mmol) and 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide (36 mg, 0.23 mmol) according to the method described in example 64, step 6 after purification by preparative HPLC using an acetonitrile/water gradient as yellow solid (16 mg, 22%).

reactant | 6-methoxy-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid | 0.18 mmol, 50 mg | COC1=CN=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C10H9N5O3
reactant | 4-amino-2-methyl-2H-pyrazole-3-carboxylic acid methylamide | 0.23 mmol, 36 mg | CNC(=O)C=1N(N=CC1N)C | C6H10N4O
product | 6-Methoxy-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (1-methyl-5-methylcarbamoyl-1H-pyrazol-4-yl)-amide | CN1N=CC(=C1C(NC)=O)NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)OC | C16H17N9O3
